US08124641B2
Starting with {(R)-4-[(3-chloro-4-fluoro-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester and cyclopentanol using the method analogous to the one described above for example 3-1, {(R)-4-[(3-chloro-4-cyclopentyloxy-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester was obtained. MS cald. for C23H30ClN3O5S 495, obsd. (ESI+) [(M+H)+] 496.

reactant | {(R)-4-[(3-chloro-4-fluoro-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=C(C=C1)F)Cl)=O | C18H21ClFN3O4S
reactant | cyclopentanol | C1(CCCC1)O | C5H10O
product | {(R)-4-[(3-chloro-4-cyclopentyloxy-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=C(C=C1)OC1CCCC1)Cl)=O | C23H30ClN3O5S
